US08071768B2
b. 4-[6-(3-Diethylamino-prop-1-ynyl)-quinazolin-4-yl]-piperidine-1-carboxylic acid (4-isopropoxy-phenyl)-amide
A solution of methanesulfonic acid 3-{4-[1-(4-isopropoxy-phenylcarbamoyl)-piperidin-4-yl]-quinazolin-6-yl}-prop-2-ynyl ester (180.0 mg, 345 μmol), as prepared in the previous step, in CH3CN (0.5 mL) was treated with diethylamine (79 μL, 759 μmol) very rapidly by syringe in 1 portion with stirring at rt, and the pale yellow solution was allowed to stir at rt for 2 h. Purification of the crude reaction with a flash silica column (1:2 hex/acetone) afforded the title compound as an off-white foam (136 mg, 79%). 1H-NMR (300 MHz, CDCl3) δ 9.22 (s, 1H), 8.21 (d, 1H), 7.99 (d, 1H), 7.88 (dd, 1H), 7.25 (m, 2H), 6.84 (m, 2H), 6.38 (br s, 1H), 4.48 (heptet, 1H), 4.32-4.22 (m, 2H), 3.78-3.65 (m, 1H), 3.70 (s, 2H), 3.16 (td, 2H), 2.68 (q, 4H), 2.21-1.94 (m, 4H), 1.31 (d, 6H), 1.15 (t, 6H). LC/MS (ESI): calcd mass 499.3, found 500.5 (MH)+. A select fraction of this material was submitted for combustion analysis: Anal. Calcd for C30H37N5O2.0.18 water: C, 71.65; H, 7.49; N, 13.93. Found: C, 71.7; H, 7.55; N, 13.92.

reactant | methanesulfonic acid 3-{4-[1-(4-isopropoxy-phenylcarbamoyl)-piperidin-4-yl]-quinazolin-6-yl}-prop-2-ynyl ester | 345 μmol, 180.0 mg | C(C)(C)OC1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC=C(C=C12)C#CCOS(=O)(=O)C | C27H30N4O5S
reactant | diethylamine | 759 μmol, 79 μL | C(C)NCC | C4H11N
solvent | CH3CN | 0.5 mL | CC#N | C2H3N
product | 4-[6-(3-Diethylamino-prop-1-ynyl)-quinazolin-4-yl]-piperidine-1-carboxylic acid (4-isopropoxy-phenyl)-amide | 136 mg, 79% | C(C)(C)OC1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC=C(C=C12)C#CCN(CC)CC | C30H37N5O2
